US05045231
About 111 g of N-(2-aminoethyl)-3-aminopropyltrimethoxysilane (commercially available under the name "Silan GF 91" from Wacker-Chemie GmbH, Munich) are metered into a solution containing 95.g of potassium hydroxide in 400 g of water, with vigorous stirring. First methanol and then about 200 g of water are distilled off from the mixture by heating. The mixture is then made up to a total weight of 367 g by addition of water. A 40 percent potassium N-(2-aminoethyl)- 3-aminopropylsilanolate solution is obtained.

reactant | N-(2-aminoethyl)-3-aminopropyltrimethoxysilane | 111 g | NCCNCCC[Si](OC)(OC)OC | C8H22N2O3Si
reactant | potassium hydroxide | [OH-].[K+]
solvent | water | 400 g | O | H2O
product | potassium N-(2-aminoethyl)- 3-aminopropylsilanolate | 40 percent | NCCNCCC[SiH2][O-].[K+] | InChI=1S/C5H15N2OSi.K/c6-2-4-7-3-1-5-9-8;/h7H,1-6,9H2;/q-1;+1
